US05721245
1.5 g of oxalyl chloride were added dropwise to an ice-cold solution of 2.0 g of 7,8,9,10-tetrahydro-6H-azepino[1,2-a]indole (J. Org. Chem. 33, 1968, 4286) in 50 ml of dichloromethane. The mixture was stirred for 2 hours. The solvent was removed in a vacuum and the residue was dissolved in dichloromethane. The solution obtained was added to a solution of 2.2 g of 1-methyl-3-indolylacetic acid and 2.73 g of triethylamine in 50 ml of dichloromethane. The mixture was stirred and then concentrated. The residue was chromatographed on silica gel with dichloromethane and there was obtained 1.0 g of 3-[7,8,9,10-tetrahydro-6H-azepino[1,2-a]indol-11-yl]-3-(1-methyl-3-indolyl)furan-2,5-dione of melting point 257°-259° C.

reactant | oxalyl chloride | 1.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7,8,9,10-tetrahydro-6H-azepino[1,2-a]indole | 2.0 g | C1=C2C=C3N(C2=CC=C1)CCCCC3 | C13H15N
reactant | 1-methyl-3-indolylacetic acid | 2.2 g | CN1C=C(C2=CC=CC=C12)CC(=O)O | C11H11NO2
reactant | triethylamine | 2.73 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[7,8,9,10-tetrahydro-6H-azepino[1,2-a]indol-11-yl]-3-(1-methyl-3-indolyl)furan-2,5-dione | 1.0 g | C1=C2C(=C3N(C2=CC=C1)CCCCC3)C3(C(OC(C3)=O)=O)C3=CN(C1=CC=CC=C31)C | C26H24N2O3
